US07829580B2
(E)-3-{[1-(4-Carboxybutyl)-1H-1,2,3-triazol-4-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-1157)
In a similar manner to that described in Example 134, (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[4-(ethoxycarbonyl)butyl]-1H-1,2,3-triazol-4-yl}methylidene)-4-sulfanylpiperidine hydrochloride (1.32 g) was treated with 3 N HCl. The crude product was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N HCl, 20/80, v/v) to afford the title compound as a colourless amorphous solid (1.22 g, yield: 97%).

reactant | (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[4-(ethoxycarbonyl)butyl]-1H-1,2,3-triazol-4-yl}methylidene)-4-sulfanylpiperidine hydrochloride | 1.32 g | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C=1N=NN(C1)CCCCC(=O)OCC)=O
reactant | HCl | 3 N | Cl | ClH
solvent | acetonitrile | 0.024 N | C(C)#N | C2H3N
product | (E)-3-{[1-(4-Carboxybutyl)-1H-1,2,3-triazol-4-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride | 1.22 g, yield: 97% | Cl.C(=O)(O)CCCCN1N=NC(=C1)\C=C\1/CN(CCC1S)C(C(=O)C1CC1)C1=C(C=CC=C1)F | InChI=1S/C24H29FN4O3S.ClH/c25-20-6-2-1-5-19(20)23(24(32)16-8-9-16)28-12-10-21(33)17(14-28)13-18-15-29(27-26-18)11-4-3-7-22(30)31;/h1-2,5-6,13,15-16,21,23,33H,3-4,7-12,14H2,(H,30,31);1H/b17-13+;
